US07776868B2
A mixture of propionic acid (3.8 ml, 50.64 mmol), diphenylphosphoryl azide (10.9 ml, 50.64 mmol), and triethylamine (7.1 ml, 50.64 mmol) in toluene (30 ml) was refluxed for 1 hour. After cooling to room temperature, ethyl 2-amino-4-methylthiophene-3-carboxylate (3.13 g, 16.88 mmol) was added, and the mixture was refluxed for 18 hours. The product was partitioned between ethyl acetate and water, the organic layer washed with brine, dried over sodium sulfate, and solvent removed under reduced pressure. The residue was chromatographed on silica gel, eluting with ethyl acetate/hexane 1:1, to provide ethyl 4-methyl-2-[(methylamino)carbonylamino]-thiophene-3-carboxylate as pink crystals.

reactant | propionic acid | 50.64 mmol, 3.8 ml | C(CC)(=O)O | C3H6O2
reactant | diphenylphosphoryl azide | 50.64 mmol, 10.9 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 50.64 mmol, 7.1 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-amino-4-methylthiophene-3-carboxylate | 16.88 mmol, 3.13 g | NC=1SC=C(C1C(=O)OCC)C | C8H11NO2S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-methyl-2-[(methylamino)carbonylamino]-thiophene-3-carboxylate | CC=1C(=C(SC1)NC(=O)NC)C(=O)OCC | C10H14N2O3S
